US05807979
12 mmoles methyl 5,5-dimethoxypentanoate (Stevens, R. V. et al., J Am Chem Soc (1979) 7054) were dissolved in 20 ml 50% aqueous methanol. 16 mmoles NaOH were added and the mixture was stirred for 2 hr at room temperature. The solvent was then evaporated, the residue layered with 30 ml EtOAc, and the sodium salt neutralized with ice-cold 1N HCl. The aqueous phase was extracted with an additional 20 ml EtOAc, the organic extracts combined and dried over K2CO3. The product was filtered and the solvent evaporated to provide 5,5-dimethoxypentanoic acid.

reactant | methyl 5,5-dimethoxypentanoate | 12 mmoles | COC(CCCC(=O)OC)OC | C8H16O4
reactant | NaOH | 16 mmoles | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 5,5-dimethoxypentanoic acid | COC(CCCC(=O)O)OC | C7H14O4
